US04435567
A mixture of 0.40 g ethylenediamine and 5 ml aceton was added dropwise to a suspension of 1.5 g phenylcarbamoyl-benzoic acid sulfimide with 15 ml acetone, under stirring. The reaction mixture was stirred for 45 minutes, diluted with 50 ml water, cooled, the precipitated solid product was filtered, washed with water and dried. 0.62 g N,N'-bis(phenylcarbamoyl)-ethylenediamine was obtained, melting above 240° C.

reactant | ethylenediamine | 0.40 g | C(CN)N | C2H8N2
reactant | aceton | 5 ml | CC(=O)C | C3H6O
reactant | phenylcarbamoyl-benzoic acid sulfimide | 1.5 g | [SH2]=N.C1(=CC=CC=C1)NC(=O)C1=C(C(=O)O)C=CC=C1
reactant | acetone | 15 ml | CC(=O)C | C3H6O
solvent | water | 50 ml | O | H2O
product | N,N'-bis(phenylcarbamoyl)-ethylenediamine | 0.62 g | C1(=CC=CC=C1)NC(=O)NCCNC(NC1=CC=CC=C1)=O | C16H18N4O2
